US04011319
A suspension of 4.84 g. of sodium hydride (57% mineral oil dispersion) in 70 ml. of dry dimethyl sulfoxide is heated at about 65° C. under argon with stirring for 1 hour. Dry tetrahydrofuran (75 ml.) is added and the resulting solution is cooled to -5° C. Trimethylsulfonium iodide (19 g., 92.8 mmol) is added very slowly and stirring is continued for about 5 minutes. A solution of 12.6 g. (92.8 mmol) of p-methoxybenzaldehyde in 120 ml. of tetrahydrofuran is added and the temperature is maintained at -5° C. After addition is completed the mixture is allowed to warm to room temperature, poured into water and extracted with ether. The extract is washed with saturated sodium chloride solution, dried and evaporated to give p-methoxystyrene oxide.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | Trimethylsulfonium iodide | 92.8 mmol, 19 g | [I-].C[S+](C)C
reactant | p-methoxybenzaldehyde | 92.8 mmol | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | p-methoxystyrene oxide | COC1=CC=C(C2CO2)C=C1 | C9H10O2
